US09422307B2
Step 1. 7-(3-aminophenyl)-2-chlorothieno[3,2-d]pyrimidin-4-amine
The target compound (360 mg, 68% yield) was prepared in the same manner as Step 1 of Example 11 using 7-bromo-2-chlorothieno[3,2-d]pyrimidin-4-amine (500 mg, 1.90 mmol) and 3-aminophenylboronic acid (261 mg, 1.90 mmol).

reactant | 7-bromo-2-chlorothieno[3,2-d]pyrimidin-4-amine | 1.90 mmol, 500 mg | BrC1=CSC2=C1N=C(N=C2N)Cl | C6H3BrClN3S
reactant | 3-aminophenylboronic acid | 1.90 mmol, 261 mg | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
product | 7-(3-aminophenyl)-2-chlorothieno[3,2-d]pyrimidin-4-amine | 360 mg, 68% yield | NC=1C=C(C=CC1)C1=CSC2=C1N=C(N=C2N)Cl | C12H9ClN4S
